US07611692B2
A. (3β,5β,7α,12α)-3-(9H-Fluoren-9-ylmethoxy)amino-7,12-dihydroxycholan-24-oic acid, B (FIG. 49A)
A solution of 9-fluorenylmethoxycarbonyl chloride (1.4 g; 5.4 mmol) in 1,4-dioxane (18 mL) was added dropwise to a suspension of (3β,5β,7α,12α)-3-amino-7,12-dihydroxycholan-24-oic acid A (2.0 g; 4.9 mmol) (3) in 10% aq. Na2CO3 (30 mL) and 1,4-dioxane (18 mL) stirred at 0° C. After 6 h stirring at room temperature H2O (100 mL) was added, the aqueous phase washed with Et2O (2×90 mL) and then 2 M HCl (15 mL) was added (final pH: 1.5). The precipitated solid was filtered, washed with H2O (3×100 mL), vacuum dried and then purified by flash chromatography to give B as a white solid (2.2 g; 3.5 mmol). Yield 71%.

reactant | 9-fluorenylmethoxycarbonyl chloride | 5.4 mmol, 1.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | (3β,5β,7α,12α)-3-amino-7,12-dihydroxycholan-24-oic acid | N[C@@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C24H41NO4
reactant | H2O | 100 mL | O | H2O
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | (3β,5β,7α,12α)-3-(9H-Fluoren-9-ylmethoxy)amino-7,12-dihydroxycholan-24-oic acid | Yield 71% | C1=CC=CC=2C3=CC=CC=C3C(C12)CON[C@@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C38H51NO5
